US05792764
7-Chloro-3-octylamino-4H- pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide;
m.p. 170°-175° C.; from 7-chloro-3-(imidazol-1-yl)-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide and octylamine. (Compound 14).

reactant | 7-chloro-3-(imidazol-1-yl)-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)N2C=NC=C2)N=C1 | C9H6ClN5O2S
reactant | octylamine | C(CCCCCCC)N | C8H19N
product | 7-Chloro-3-octylamino-4H- pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NCCCCCCCC)N=C1 | C14H21ClN4O2S
